US07659268B2
To a solution of (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-5-methylpyridin-2-yl)cyclopropane-carboxamide (54 mg, 0.10 mmol) in methanol (2 mL) and water (0.2 mL) was added 4-methylbenzenesulfonic acid (2 mg, 0.01 mmol). The mixture was heated at 80° C. for 1 hour. The reaction mixture was partitioned between ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with sat. NaHCO3 and brine before being dried over MgSO4. After the removal of solvent, the residue was purified by preparative LC/MS to afford (S)-1-(2,2-difluorobenzo[d][1,3]-dioxol-5-yl)-N-(6-(3-(2,3-dihydroxypropoxy)phenyl)-5-methylpyridin-2-yl)cyclo-propanecarboxamide. 1H NMR (400 MHz, CDCl3) δ 8.01 (d, J=8.4 Hz, 1H), 7.65 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.25 (t, J=7.8 Hz, 1H), 7.13 (td, J=8.7, 1.7 Hz, 2H), 6.99 (d, J=8.2 Hz, 1H), 6.92 (d, J=7.6 Hz, 1H), 6.87-6.83 (m, 2H), 4.00-3.91 (m, 3H), 3.71 (dd, J=11.4, 3.2 Hz, 1H), 3.62 (dd, J=11.3, 5.0 Hz, 1H), 2.17 (s, 3H), 1.67 (q, J=3.6 Hz, 2H), 1.08 (q, J=3.6 Hz, 2H). MS (ESI) m/e (M+H+) 499.3.

reactant | (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-5-methylpyridin-2-yl)cyclopropane-carboxamide | 0.10 mmol, 54 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C2=CC(=CC=C2)OC[C@H]2OC(OC2)(C)C)F | C29H28F2N2O6
reactant | 4-methylbenzenesulfonic acid | 0.01 mmol, 2 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
product | (S)-1-(2,2-difluorobenzo[d][1,3]-dioxol-5-yl)-N-(6-(3-(2,3-dihydroxypropoxy)phenyl)-5-methylpyridin-2-yl)cyclo-propanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C2=CC(=CC=C2)OC[C@H](CO)O)F | C26H24F2N2O6
